US07226931B2
Step 5. (R)-4-[Methyl-(1-pyrrolidin-3-yl-cyclopropyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester
(R)-4-{[1-(1-benzyl-pyrrolidin-3-yl)-cyclopropyl]-methyl-amino}-piperidine-1-carboxylic acid tert-butyl ester (14 g) was dissolved in 150 mL glacial acetic acid at room temperature in a hydrogenation flask, air was evacuated, and filled with nitrogen. To this was added 30% Pd/C (5 g), flask was mounted to Parr shaker, nitrogen was evacuated and filled with hydrogen, and the mixture was shaken under hydrogen atmosphere at 60 psi in a Parr for 18 h. Reaction mixture was diluted with toluene (300 mL), filtered through a pad of celite. The filtrate was concentrated in vacuo, residue was digested in cold 30% NaOH at 0° C. and the product was extracted with ethyl acetate. The combined ethyl acetate solution was charged with 50 g of charcoal (Darco G-60), allowed to stir for 2 h, filtered, concentrated to give pale yellow oil, which can be vacuum distilled to give a clear oil (9.6 g). 1H NMR (400 MHz, CD3OD) δ 4.04 (br s, 1H), 3.01 (dd, J=10.4 Hz and 7.6 Hz, 1H), 2.84 (dd, J=8.0 Hz and 5.2 Hz, 2H), 2.64-2.55 (m, 3H), 2.48-2.43 (m, 2H), 2.30 (s, 3H), 2.28-2.23 (m, 1H), 2.23-1.74 (m, 3H), 1.40 (s, 9H), 1.35-1.28 (m, 2H), 1.18-1.12 (m, 2H), 0.53-0.45 (m, 4H).

reactant | (R)-4-{[1-(1-benzyl-pyrrolidin-3-yl)-cyclopropyl]-methyl-amino}-piperidine-1-carboxylic acid tert-butyl ester | 14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)C1(CC1)[C@H]1CN(CC1)CC1=CC=CC=C1 | C25H39N3O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-4-[Methyl-(1-pyrrolidin-3-yl-cyclopropyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 9.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1(CC1)[C@H]1CNCC1)C | C18H33N3O2
